US20010047023A1
Preparation of 3-Chloro-4-Fluorophenylhydrazine Hydrochloride
In a 500 ml round bottom flask provided with efficient stirring and external cooling arrangement, 51 ml (0.5 mole) of conc. HCl was cooled to below 5 deg C and 25 gms (0.13 mole) 3-chloro-4-fluoroaniline was added. The hydrochloride thus precipitated was then diazotised below 0 deg C with 12 gms (0.17 mole)sodium nitrite and the resulting diazonium salt was decomposed with 100 gms ( 0.79 mole)sodium sulphite and 12 ml caustic lye. The reaction mixture was filtered to remove impurities.225 ml conc. HCI was added and stirred well and allowed to stand overnight. The 3-chloro-4-fluorophenylhydrazine hydrochloride thus precipitated was filtered and recrystallized from water. The dried product was 18 gms ( yield 69%) M.pt: decomposed at 193 deg C. IR (KBr) cm−1 2939 and 2690(NH), 1506 (C═C),1114 (C-F), 744( C-Cl)

reactant | HCl | 0.5 mole, 51 ml | Cl | ClH
reactant | 3-chloro-4-fluoroaniline | 0.13 mole, 25 gms | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | sodium nitrite | 0.17 mole, 12 gms | N(=O)[O-].[Na+]
reactant | sodium sulphite | 0.79 mole, 100 gms | S(=O)([O-])[O-].[Na+].[Na+]
product | 3-Chloro-4-Fluorophenylhydrazine Hydrochloride | yield 69% | Cl.ClC=1C=C(C=CC1F)NN | InChI=1S/C6H6ClFN2.ClH/c7-5-3-4(10-9)1-2-6(5)8;/h1-3,10H,9H2;1H
